US04436748
To 5.31 g of 2,3-dichloroanisole is slowly added 10 ml of chlorosulfonic acid over a period of 30 minutes. The reaction is mildly exothermic and at the end of the addition, a clear solution is formed. The yellowish solution is stirred at room temperature for 1 additional hour and quenched with 200 g of crushed ice. The solid is filtered, air-dried and recrystallized from ether-pentane to give 6.9 g of 2,3-dichloro-4-methoxybenzenesulfonyl chloride as off-white prisms, mp 93°-95°.

reactant | 2,3-dichloroanisole | 5.31 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | chlorosulfonic acid | 10 ml | ClS(=O)(=O)O | ClHO3S
product | 2,3-dichloro-4-methoxybenzenesulfonyl chloride | 6.9 g | ClC1=C(C=CC(=C1Cl)OC)S(=O)(=O)Cl | C7H5Cl3O3S
